US06124284
d) Preparation of (E)-2-(5-fluoro-1-indanylidene)acetyl Chloride
This compound was prepared in a similar manner to (E)-2-(4,6-difluoro-1-indanylidene)acetyl chloride in Example 5f by substituting (E)-2-(5-fluoro-1-indanylidene)acetic acid (5.77 g, 0.03 mol) for (E)-2-(4,6-difluoro-1-indanylidene)acetic acid. The resulting solution was concentrated in vacuo, and the residue was used without further purification.

reactant | (E)-2-(4,6-difluoro-1-indanylidene)acetyl chloride | FC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)Cl | C11H7ClF2O
reactant | (E)-2-(4,6-difluoro-1-indanylidene)acetic acid | FC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)O | C11H8F2O2
product | (E)-2-(5-fluoro-1-indanylidene)acetyl Chloride | FC=1C=C2CC/C(/C2=CC1)=C\C(=O)Cl | C11H8ClFO
